US08791114B2
5,5-Dimethyl-pyrazolidin-3-one.Hydrochloride.
A scintillation vial equipped with a stir bar was charged with 5,5-dimethyl-pyrazolidin-3-one (228 mg, 2.0 mmol) and 2.0 M HCl in Et2O (2 mL) was added. A white PPT formed. This was filtered and washed with further Et2O (20 mL). Amount obtained: 300 mg, 2.0 mmol, 100% yield. Step 3

reactant | 5,5-dimethyl-pyrazolidin-3-one | 2.0 mmol, 228 mg | CC1(CC(NN1)=O)C | C5H10N2O
reactant | HCl | 2.0 M | Cl | ClH
solvent | Et2O | 2 mL | CCOCC | C4H10O
product | 5,5-Dimethyl-pyrazolidin-3-one.Hydrochloride | 100% yield | Cl.CC1(CC(NN1)=O)C | InChI=1S/C5H10N2O.ClH/c1-5(2)3-4(8)6-7-5;/h7H,3H2,1-2H3,(H,6,8);1H
